US20010027196A1
To a stirred solution of 210 mg (0.87 mmol) 6-amino-4-furan-2-yl-2-thioxo-1,2-dihydro-pyridine-3,5-dicarbonitrile in 25 ml methanol were added 0.16 ml (0.87 mmol) sodium methylate solutiuon (5.4M in methanol) and 0.11 ml (1.73 mmol) methyl iodide and stirring continued for 90 minutes at room temperature. The reaction mixture was then poured onto 100 ml ice-water and the resulting crystals collected by filtration and dried in vacuo to afford 135 mg (61%) 2-amino-4-furan-2-yl-6-methylsulfanyl-pyridine-3,5-dicarbonitrile as a light brown crystalline solid. EI-MS m/e (%): 256 (M+, 49), 255 ([M—H]+, 100).

reactant | 6-amino-4-furan-2-yl-2-thioxo-1,2-dihydro-pyridine-3,5-dicarbonitrile | 0.87 mmol, 210 mg | NC1=C(C(=C(C(N1)=S)C#N)C=1OC=CC1)C#N | C11H6N4OS
reactant | sodium methylate | 0.87 mmol, 5.4M, 0.16 ml | C[O-].[Na+]
reactant | methyl iodide | 1.73 mmol, 0.11 ml | CI | CH3I
solvent | methanol | 25 ml | CO | CH4O
product | 2-amino-4-furan-2-yl-6-methylsulfanyl-pyridine-3,5-dicarbonitrile | 135 mg, 61% | NC1=NC(=C(C(=C1C#N)C=1OC=CC1)C#N)SC | C12H8N4OS
